US06838463B2
In 3 ml of pyridine were added 0.3 g of 6-(2-butynyloxy)-4-benzoylpyrimidine and 0.15 g of O-methylhydroxylamine hydrochloride, followed by stirring at room temperature for 3 hours. The reaction mixture was then poured into 10% hydrochloric acid and extracted three times with ethyl acetate. The organic layers were combined and washed with a saturated aqueous sodium chloride solution, and the combined organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give two isomers of (6-(2-butynyloxy)-4-pyrimidyl)phenylketone O-methyloxime (referred to as isomers A and B).

reactant | 6-(2-butynyloxy)-4-benzoylpyrimidine | 0.3 g | C(C#CC)OC1=CC(=NC=N1)C(C1=CC=CC=C1)=O | C15H12N2O2
reactant | O-methylhydroxylamine hydrochloride | 0.15 g | Cl.CON
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | (6-(2-butynyloxy)-4-pyrimidyl)phenylketone O-methyloxime | CON=C(C1=NC=NC(=C1)OCC#CC)C1=CC=CC=C1 | C16H15N3O2
